US08133998B2
To a suspension of 6-(4-(2-fluorophenyl)piperazine-1-carbonyl)-5-methylthieno[2,3-d]pyrimidin-4(3H)-one, (0.06 g, 0.16 mmol) in CH3CN (0.5 mL) was added K2CO3 (22 mg, 0.16 mmol), KI (29 mg, 0.17 mmol), and 2-chloro-N-(2,4-difluorophenyl)acetamide, (36 mg, 0.16 mmol). The reaction mixture was heated at 130° C. for 25 min in a microwave reactor. The reaction was quenched with H2O (25 mL) and the aqueous layer was extracted with EtOAc (25 mL). The organic layer was washed with brine (25 mL), dried over Na2SO4 and concentrated. The crude material was purified by flash chromatography (Et2O:DCM, 1:1) providing 30 mg of pure N-(2,4-difluorophenyl)-2-(6-(4-(2-fluorophenyl)piperazine-1-carbonyl)-5-methyl-4-oxothieno[2,3-d]pyrimidin-3(4H)-yl)acetamide, (yield: 35%).

reactant | 6-(4-(2-fluorophenyl)piperazine-1-carbonyl)-5-methylthieno[2,3-d]pyrimidin-4(3H)-one | 0.16 mmol, 0.06 g | FC1=C(C=CC=C1)N1CCN(CC1)C(=O)C1=C(C2=C(N=CNC2=O)S1)C | C18H17FN4O2S
reactant | K2CO3 | 0.16 mmol, 22 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloro-N-(2,4-difluorophenyl)acetamide | 0.16 mmol, 36 mg | ClCC(=O)NC1=C(C=C(C=C1)F)F | C8H6ClF2NO
solvent | CH3CN | 0.5 mL | CC#N | C2H3N
product | N-(2,4-difluorophenyl)-2-(6-(4-(2-fluorophenyl)piperazine-1-carbonyl)-5-methyl-4-oxothieno[2,3-d]pyrimidin-3(4H)-yl)acetamide | 30 mg, yield: 35% | FC1=C(C=CC(=C1)F)NC(CN1C=NC2=C(C1=O)C(=C(S2)C(=O)N2CCN(CC2)C2=C(C=CC=C2)F)C)=O | C26H22F3N5O3S
